US09169246B2
Step 6.1, 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxylic acid
To a suspension of 1H-pyrazole-4-carboxylic acid (50 g, 446 mmol) in 500 mL of DMF are added para-toluenesulfonic acid (8.48 g, 44 mmol) and DHP (132 mL, 1561 mmol). The reaction medium turns yellow and then black after stirring at room temperature for 20 hours. The reaction mixture is poured into saturated aqueous NaHCO3 solution and extracted with EtOAc. The aqueous phase is acidified to pH 3 by adding 6M hydrochloric acid solution. The precipitate formed is filtered off and washed with water and then dried under vacuum at 50° C. to give 61.2 g of a white powder (yield: 70%).

reactant | 1H-pyrazole-4-carboxylic acid | 446 mmol, 50 g | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | para-toluenesulfonic acid | 44 mmol, 8.48 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | DHP | 1561 mmol, 132 mL | C1CC=COC1 | C5H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carboxylic acid | 61.2 g, yield: 70% | O1C(CCCC1)N1N=CC(=C1)C(=O)O | C9H12N2O3
